*****************************************************************
* NXP PSMN7R0_40LS
*
* Polarity N-Channel
* Ratings 40V/7.00E-03OHMS/10A
*
* Date Created Tue Aug  3 03:02:02 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R0_40LS DRAIN GATE SOURCE

LD DRAIN 5 1e-10
RLD2 DRAIN 5 0.2513272
RLD1 5 4 0.0001
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360105685013
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.0005

RDS 7 4 400000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00213211266518532 TC=0.00407702883609983,3.30464797637555e-05
RBD 9 4 0.00224522155498266 TC=0.00407702883609983,3.30464797637555e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 20000000000
CGS 2 6 1.1e-09
RG 1 2 0.880601613584367

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -20	1252
+ -10	1257
+ -5	1251
+ -4	1200
+ -3	1031
+ -2	900
+ -1	709
+ -0.5	616
+ -0.2	557
+ -0.1	536
+ 0	512
+ 0.1	469
+ 0.2	429
+ 0.5	355
+ 1	295
+ 2	251
+ 5	197
+ 10	167
+ 12	162
+ 20	147
+ 40         135



.MODEL MINT NMOS(Vto=3.8 Kp=6.5e+01 Nfs=960000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8  Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0  
+ U0=600 Vmax=1300)

.MODEL DBD D(Bv=44.00 Ibv=2.50E-04 Rs=1E-6 Is=6.68520746106399e-13
+ N=1 M=0.6 VJ=0.5 Fc=0.5 Cjo=1.104e-09 Tt=2.621e-08)

.ENDS





